### PR TITLE
Prove komlos_convergence_L2

### PR DESCRIPTION
**Pull request by Aaron1011**

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 1]
```diff
@@ -356,12 +356,102 @@ lemma komlos_convex_weights_diagonal
...
+  · apply Eventually.of_forall
+    intro x
+    rw [Set.indicator_apply]
+    split_ifs
+    · grind
+    · simp [hi]
+
 lemma komlos_convergence_L2
-    (f : ℕ → Ω → E) {P : Measure Ω} :
+    (f : ℕ → Ω → E) {P : Measure Ω} [IsProbabilityMeasure P] (hf : UniformIntegrable f 1 P) :
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean:394]: Why do you need `hf : UniformIntegrable f 1 P`?
I see it used explicitly only in one place as `hf.aestronglyMeasurable` (I just looked at the github diff, I did not interact with the code yet). If that's the only use, you should replace `hf` with `hf : AEStronglyMeasurable f P`.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 2]
```diff
@@ -356,12 +356,102 @@ lemma komlos_convex_weights_diagonal
...
+    | empty =>
+      simp [AEEqFun.coeFn_zero]
+    | insert a s ha ih =>
+      rw [Finset.sum_insert ha]
+      grw [Lp.coeFn_add]
+      rw [Finset.sum_insert ha]
+      grw [ih]
+
+omit [InnerProductSpace ℝ E] [CompleteSpace E] in
+lemma memlp_indicator (f : Ω → E) {P : Measure Ω} [IsFiniteMeasure P]
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean:375]: I think the name should be `memLp_indicator`. I also think it should be possible to generalise 2 to `p`.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 3]
```diff
@@ -356,12 +356,102 @@ lemma komlos_convex_weights_diagonal
     ∃ (η : ℕ → StdSimplex ℝ ℕ), (∀ n, ∀ m < n, (η n).weights m = 0) ∧ ∀ i : ℕ,
     ∃ glim : E, Tendsto (fun n ↦ (η n).sum (fun m ηm ↦ ηm • x i m)) atTop (𝓝 glim) := by sorry
 
+
+lemma MeasureTheory.Lp.coeFn_finset_sum {α : Type*} {E : Type*} {m : MeasurableSpace α}
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean:360]: Can you move this and the next lemma to an appropriate file in the Auxiliary folder? They don't have anything directly to do with the Komlos lemma.
